US08003806B2
(c) Methyl (3R)-3-(5-nitro-1H-benzimidazol-1-yl)-3-phenylpropanoate
To a solution of methyl (3R)-3-(2-amino-4-nitroanilino)-3-phenylpropanoate (2.10 g, 6.7 mmol) in 2-ethoxyethanol (65 mL) was added formamidine acetate (2.8 g, 26.6 mmol), and the mixture heated to 85° C. for 5 hours. The mixture was then cooled to room temperature, evaporated in vacuo, and the residue purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (95:5) to afford a mixture of the title compound and the corresponding 2-ethoxyethanol ester, which was used directly without any additional purification. [LCMS (Method C, Mobile Phase I) RT=2.86 mins (broad), MH+ 326 (Me-ester) and 384 (EtOCH2CH2-ester)].

reactant | methyl (3R)-3-(2-amino-4-nitroanilino)-3-phenylpropanoate | 6.7 mmol, 2.10 g | NC1=C(N[C@H](CC(=O)OC)C2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C16H17N3O4
reactant | formamidine acetate | 26.6 mmol, 2.8 g | C(C)(=O)O.C(=N)N
solvent | 2-ethoxyethanol | 65 mL | C(C)OCCO | C4H10O2
product | Methyl (3R)-3-(5-nitro-1H-benzimidazol-1-yl)-3-phenylpropanoate | [N+](=O)([O-])C1=CC2=C(N(C=N2)[C@H](CC(=O)OC)C2=CC=CC=C2)C=C1 | C17H15N3O4
